US06359134B1
To a solution of methyl 5-bromo-2-furancarboxylate (820 mg), 4-pyridyl boric acid (500 mg), tetrakistriphenyl-phosphine palladium(0) (250 mg) in dimethoxyethane (15 ml) was added 2 M sodium carbonate solution (4 ml) and the solution was heated for 15 hours under reflux. The reaction solution was diluted with ethyl acetate, and the organic layer was separated, washed with water, extracted with 1 N hydrochloric acid. The extract was made alkaline with sodium hydroxide solution, extracted with ethyl acetate, dried and concentrated to give a colorless solid of methyl 5-(4-pyridyl)-2-furancarboxylate (126 mg). 1H-NMR (CDCl3) δ: 3.94 (3H, s), 6.96 (1H, d, J=3.8 Hz), 7.27 (1H, d, J=3.8 Hz), 7.64 (2H, d, J=6.2 Hz), 8.68 (2H, d, J=6.2 Hz). IR (KBr): 1727, 1608, 13.7, 1145 cm−1.

reactant | methyl 5-bromo-2-furancarboxylate | 820 mg | BrC1=CC=C(O1)C(=O)OC | C6H5BrO3
reactant | 4-pyridyl boric acid | 500 mg | N1=CC=C(C=C1)OB(O)O | C5H6BNO3
reactant | sodium carbonate | 2 M, 4 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-(4-pyridyl)-2-furancarboxylate | 126 mg | N1=CC=C(C=C1)C1=CC=C(O1)C(=O)OC | C11H9NO3
